### PR TITLE
[Merged by Bors] - feat(Logic/Equiv/Fin): add `finSumNatEquiv`

### PR DESCRIPTION
**Pull request by wrenna-robson**
Adds an equivalence between `Fin n ⊕ ℕ` and `ℕ`.

---
I found myself essentially re-implementing this a couple of times by proxy while working on other work and I think it will be useful to actually have.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 1]
```diff
@@ -247,6 +247,47 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
 theorem finSumFinEquiv_symm_last : finSumFinEquiv.symm (Fin.last n) = Sum.inr 0 :=
   finSumFinEquiv_symm_apply_natAdd 0
 
+def finSumNatEquiv (n : ℕ) : Fin n ⊕ ℕ ≃ ℕ where
```
Comment (plp127) [inline Mathlib/Logic/Equiv/Fin/Basic.lean:252]: You'll need a docstring too. How about
```suggestion
/-- Equivalence between `Fin n ⊕ ℕ` and `ℕ` that sends `inl (a : Fin n)` to `(a : ℕ)` and `inr a` to `a + n`. -/
def finSumNatEquiv (n : ℕ) : Fin n ⊕ ℕ ≃ ℕ where
```

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean:252]: Great idea, thanks.

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 2]
```diff
@@ -247,6 +247,49 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
 theorem finSumFinEquiv_symm_last : finSumFinEquiv.symm (Fin.last n) = Sum.inr 0 :=
   finSumFinEquiv_symm_apply_natAdd 0
 
+/-- Equivalence between `Fin n ⊕ ℕ` and `ℕ` that sends `inl (a : Fin n)` to
+  `(a : ℕ)` and `inr a` to `a + n`. -/
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]:
```suggestion
`(a : ℕ)` and `inr a` to `a + n`. -/
```

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 3]
```diff
@@ -247,6 +247,49 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
...
+  invFun i := if hi : i < n then Sum.inl ⟨i, hi⟩ else Sum.inr (i - n)
+  left_inv i := i.casesOn
+    (fun _ => dif_pos (Fin.is_lt _))
+    (fun _ => (dif_neg (n.le_add_left _).not_gt).trans <| congrArg _ <| Nat.add_sub_cancel _ _)
+  right_inv i := (apply_dite _ _ _ _).trans <| (i.lt_or_ge n).by_cases
+    (fun hi => dif_pos hi)
+    (fun hi => (dif_neg hi.not_gt).trans <| Nat.sub_add_cancel hi)
+
+@[simp] theorem finSumNatEquiv_apply_left (i : Fin n) :
+    (finSumNatEquiv n) (Sum.inl i) = i := rfl
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]: style nit (throughout):
```suggestion
    finSumNatEquiv n (Sum.inl i) = i := rfl
```

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 4]
```diff
@@ -247,6 +247,49 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
...
+    (finSumNatEquiv n).symm i = Sum.inl i := by simp
+
+theorem finSumNatEquiv_symm_apply_add_left (i : ℕ) :
+    (finSumNatEquiv n).symm (i + n) = Sum.inr i := by simp
+
+theorem finSumNatEquiv_symm_apply_add_right (i : ℕ) :
+    (finSumNatEquiv n).symm (n + i) = Sum.inr i := by simp
+
+theorem isLeft_finSumNatEquiv_symm_apply (i : ℕ) :
+    ((finSumNatEquiv n).symm i).isLeft ↔ i < n :=
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]: I think this woudl be better as
```suggestion
    ((finSumNatEquiv n).symm i).isLeft = decide (i < n) :=
```
which could be a `simp` lemma, though my opinion is that `isLeft` and `isRight` are generally pretty unpleasant to use at all.

**Review by eric-wieser — APPROVED** [review]
Thanks, I agree we shoudl ahve this. Some small comments follow.

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 5]
```diff
@@ -247,6 +247,49 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
 theorem finSumFinEquiv_symm_last : finSumFinEquiv.symm (Fin.last n) = Sum.inr 0 :=
   finSumFinEquiv_symm_apply_natAdd 0
 
+/-- Equivalence between `Fin n ⊕ ℕ` and `ℕ` that sends `inl (a : Fin n)` to
+  `(a : ℕ)` and `inr a` to `a + n`. -/
+def finSumNatEquiv (n : ℕ) : Fin n ⊕ ℕ ≃ ℕ where
+  toFun := Sum.elim Fin.val (· + n)
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]: I'd argue this should be
```suggestion
  toFun := Sum.elim Fin.val (n + ·)
```
to match `Fin n ⊕ _` in the type.

Comment (plp127) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I don't like this one because `n + 0` reduces but `0 + n` does not

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin/Basic.lean:253]: Doesn't my way around mean that `finSumNatEquiv 0 (.inl x) = x := rfl` works?

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I think we're choosing between
* `finSumNatEquiv 0 (.inr x) = x := rfl`
* `finSumNatEquiv n (.inr 0) = n := rfl`

and I claim "it doesn't matter, pick the one that is most symmetric".

Comment (plp127) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I disagree with your claim that it doesn't matter, but I see now that there is a choice that does have to be made.

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I think my main issue with that is that it's going to lead to "n + (x - n)" expressions which are less nice than "x - n + n" expressions. To me the "x + n" is more natural. Though I think that gives the first of your defeqs which does feel the less nice one. Hmm.

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: It also occurs that this is probably also an order-equivalence and whether or not I define that, there should maybe be a lemma expressing it - does that sound right?

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: Indeed there is an order equivalence here with the lexicographic order; but let's not scope creep this.

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 6]
```diff
@@ -247,6 +247,49 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
...
+    (fun _ => (dif_neg (n.le_add_left _).not_gt).trans <| congrArg _ <| Nat.add_sub_cancel _ _)
+  right_inv i := (apply_dite _ _ _ _).trans <| (i.lt_or_ge n).by_cases
+    (fun hi => dif_pos hi)
+    (fun hi => (dif_neg hi.not_gt).trans <| Nat.sub_add_cancel hi)
+
+@[simp] theorem finSumNatEquiv_apply_left (i : Fin n) :
+    (finSumNatEquiv n) (Sum.inl i) = i := rfl
+
+@[simp] theorem finSumNatEquiv_apply_right (i : ℕ) :
+    (finSumNatEquiv n) (Sum.inr i) = i + n := rfl
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]: To justify my claim that the defeq is backwards; above we have
```
(finSumFinEquiv (Sum.inr i) : Fin (m + n)) = Fin.natAdd m i
```
where `Fin.natAdd` is defined as `m + i`. So I think we should just be consistent.

File: Mathlib/Logic/Equiv/Fin/Basic.lean (hunk 5 above)
Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: Agreed - I think (apart from this question about the definition) that we should have all the lemmas we need, but I just wanted to double check. 

I think I'm coming round to your point of view.

File: Mathlib/Logic/Equiv/Fin/Basic.lean (hunk 6 above)
Comment (plp127) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: What's your argument for preferring `Fin.natAdd` over `Fin.addNat`?

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: The argument is:
* The target type is `Fin (m + n)`, so the "nice" thing to write is `m + .`
* We already prefer it in master

Comment (plp127) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I still think the difference between `Fin m ⊕ Fin n` and `Fin n ⊕ ℕ` is enough to justify it being the other way around, but we'll see if it causes problems later.

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: So we're making the switch?

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 7]
```diff
@@ -247,6 +247,53 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
 theorem finSumFinEquiv_symm_last : finSumFinEquiv.symm (Fin.last n) = Sum.inr 0 :=
   finSumFinEquiv_symm_apply_natAdd 0
 
+/-- Equivalence between `Fin n ⊕ ℕ` and `ℕ` that sends `inl (a : Fin n)` to
+`(a : ℕ)` and `inr a` to `a + n`. -/
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]:
```suggestion
`(a : ℕ)` and `inr a` to `n + a`. -/
```

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 8]
```diff
@@ -247,6 +247,53 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
...
+    (finSumNatEquiv n).symm i = .inr (i - n) := dif_neg (Nat.not_lt_of_ge hi)
+
+theorem finSumNatEquiv_symm_apply_fin (i : Fin n) :
+    (finSumNatEquiv n).symm i = Sum.inl i := by simp
+
+theorem finSumNatEquiv_symm_apply_add_left (i : ℕ) :
+    (finSumNatEquiv n).symm (i + n) = .inr i := by simp
+
+theorem finSumNatEquiv_symm_apply_add_right (i : ℕ) :
+    (finSumNatEquiv n).symm (n + i) = Sum.inr i := by simp
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]:
```suggestion
    (finSumNatEquiv n).symm (n + i) = .inr i := by simp
```
to match the above

File: Mathlib/Logic/Equiv/Fin/Basic.lean [hunk 9]
```diff
@@ -247,6 +247,53 @@ theorem finSumFinEquiv_symm_apply_natAdd (x : Fin n) :
...
+
+@[simp] theorem isLeft_finSumNatEquiv_symm_apply (i : ℕ) :
+    ((finSumNatEquiv n).symm i).isLeft = decide (i < n) := by
+  rcases i.lt_or_ge n with hi | hi
+  · simp_rw [finSumNatEquiv_symm_apply_of_lt hi, hi]
+    rfl
```
Comment (eric-wieser) [inline Mathlib/Logic/Equiv/Fin/Basic.lean]: Is there a missing theorem here?

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: I didn't think there was... I did the right-hand one. Did it vanish?

Comment (eric-wieser) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: What I mean is, "can this rfl be replaced with a (simp_)rw?"

Comment (wrenna-robson) [reply Mathlib/Logic/Equiv/Fin/Basic.lean]: Ah - yes.

File: Mathlib/Data/Fin/Restrict.lean [hunk 10]
```diff
@@ -0,0 +1,138 @@
...
+Authors: Wrenna Robson
+-/
+import Mathlib.Data.Fin.Basic
+
+/-!
+# TBD
+
+## Main definitions
+
+-/
```
Comment (eric-wieser) [inline Mathlib/Data/Fin/Restrict.lean]: Please don't increase the scope of a PR like this when it's almost ready to merge.

Comment (wrenna-robson) [reply Mathlib/Data/Fin/Restrict.lean]: Oh that's just my error in pushing something I intended to be on another branch.

Comment (wrenna-robson) [reply Mathlib/Data/Fin/Restrict.lean]: I have removed this erroneously-added file.

**Review by eric-wieser — APPROVED** [review]
bors merge

Thanks!

**Comment by eric-wieser** [comment]
Do you want to follow up with `FinProdNatEquiv`?

**Comment by wrenna-robson** [comment]
FinProdNatEquiv being interspersed copies of Nat (like the Bool x Nat to Nat equivalence writ large)?

**Comment by eric-wieser** [comment]
Yes, or phrased another way, the countably infinite version of FinProdFinEquiv

**Comment by wrenna-robson** [comment]
Should the copy of Nat be on the left or the right? Obviously it ultimately doesn't matter but is there a semantic difference?

**Comment by eric-wieser** [comment]
It should be the way around that matches `FinProdFinEquiv`

**Comment by eric-wieser** [comment]
The relevant lemma is
```
(x : Fin m × Fin n) : ↑(finProdFinEquiv x) = ↑x.2 + n * ↑x.1
```
and so I guess that means that the `Nat` should be `x.1` as
```
(x : Nat × Fin n) : finProdFinEquiv x = ↑x.2 + n * x.1
```

**Comment by wrenna-robson** [comment]
Right, it's about countably infinite copies of Fin, not a finite number of copies of Nat (thinking of the first coordinate as an index).

**Comment by wrenna-robson** [comment]
Nat.divModEquiv already exists! It is somewhat out of pattern with this one. Not sure if it needs a change or if I just leave it.
